US06977263B2
A solution of 5-phenylethynyl-pyridine-3-carboxylic acid (0.25 g, 1.1 mmol) in anhydrous dimethylformamide (5 ml) was treated with O-(7-azabenzotriazol-1-yl)-1,1,3,3-tetramethyluronium hexafluorophosphate (0.42 g, 1.1 mmol) and diisopropylethylamine (0.5 ml, 3 mmol). This mixture was stirred 15 minutes at ambient temperature and then treated with a solution of 4-{3-[N,N-Bis-(tert-butoxycarbonyl)aminomethyl]-phenyl}-piperidine (0.39 g, 1.0 mmol) in dimethylformamide (5 ml). After stirring at ambient temperature for 18 hours the reaction mixture was concentrated under vacuum. The residue was partitioned between ethyl acetate (50 ml) and saturated aqueous sodium bicarbonate (15 ml). The organic layer was dried over magnesium sulfate and then concentrated under vacuum. The residue was subjected to chromatography on silica gel eluting with a mixture of dichloromethane and methanol (49:1, v/v) to give N,N-bis-(tert-butoxycarbonyl)-3-[1-(5-phenylethynyl -pyridine-3-carbonyl)-piperidin-4-yl]-benzylamine as a yellow oil (0.25 g). 1H NMR [(CD3)2SO, 500 MHz]: δ 8.82 (s, 1H), 8.62 (s, 1H), 8.02 (s, 1H), 7.61 (m, 2H), 7.45 (m, 3H), 7.30 (m, 1H), 7.20 (m, 1H), 7.15 (m, 1H), 7.04 (m, 1H), 4.68 (s, 2H), 4.62 (br m, 1H), 3.60 (br m, 1H), 3.23 (br m, 1H), 2.85 (m, 2H), 1.83 (br m, 1H), 1.65 (m, 3H), 1.39 (s, 18H). MS(EI): 596(M++H).

reactant | 5-phenylethynyl-pyridine-3-carboxylic acid | 1.1 mmol, 0.25 g | C1(=CC=CC=C1)C#CC=1C=C(C=NC1)C(=O)O | C14H9NO2
reactant | O-(7-azabenzotriazol-1-yl)-1,1,3,3-tetramethyluronium hexafluorophosphate | 1.1 mmol, 0.42 g | F[P-](F)(F)(F)(F)F.N1(N=NC2=C1N=CC=C2)OC(=[N+](C)C)N(C)C
reactant | diisopropylethylamine | 3 mmol, 0.5 ml | C(C)(C)N(CC)C(C)C | C8H19N
reactant | 4-{3-[N,N-Bis-(tert-butoxycarbonyl)aminomethyl]-phenyl}-piperidine | 1.0 mmol, 0.39 g | C(C)(C)(C)OC(=O)N(C(=O)OC(C)(C)C)CC=1C=C(C=CC1)C1CCNCC1 | C22H34N2O4
solvent | dimethylformamide | 5 ml | CN(C=O)C | C3H7NO
solvent | dimethylformamide | 5 ml | CN(C=O)C | C3H7NO
product | N,N-bis-(tert-butoxycarbonyl)-3-[1-(5-phenylethynyl -pyridine-3-carbonyl)-piperidin-4-yl]-benzylamine | 0.25 g | C(C)(C)(C)OC(=O)N(C(=O)OC(C)(C)C)CC1=CC(=CC=C1)C1CCN(CC1)C(=O)C=1C=NC=C(C1)C#CC1=CC=CC=C1 | C36H41N3O5
